US04590189
2,3,6,7-Tetrahydro-6-(4-methoxyphenyl)-5H-1,4-dithiino[2,3-C]pyrrole-5,7-dione (8.50 g) was suspended in methanol-tetrahydrofuran (1:1, 80 ml) and, under ice-cooling and stirring, sodium borohydride (0.88 g) was added. The mixture was stirred for about 3 hours and then poured into ice water. After extraction with ethyl acetate, the extract was washed with water, dried (over Na2SO4) and evaporated to give 2,3,6,7-tetrahydro-7-hydroxy-6-(4-methoxyphenyl)-5H-1,4-dithiino[2,3-C]pyrrol-5-one (8.40 g) as crystals.

reactant | 2,3,6,7-Tetrahydro-6-(4-methoxyphenyl)-5H-1,4-dithiino[2,3-C]pyrrole-5,7-dione | 8.50 g | COC1=CC=C(C=C1)N1C(C2=C(C1=O)SCCS2)=O | C13H11NO3S2
reactant | sodium borohydride | 0.88 g | [BH4-].[Na+]
solvent | methanol tetrahydrofuran | 80 ml | CO.O1CCCC1
product | 2,3,6,7-tetrahydro-7-hydroxy-6-(4-methoxyphenyl)-5H-1,4-dithiino[2,3-C]pyrrol-5-one | 8.40 g | OC1N(C(C2=C1SCCS2)=O)C2=CC=C(C=C2)OC | C13H13NO3S2
